US09120788B2
Ethyl(cyclopropylamino)(oxo)acetate (P1)
A mixture of cyclopropylamine (1.39 g, 24.3 mmol) and triethylamine (3.5 g, 35 mmol) was added drop-wise to a 0° C. solution of ethyl chloro(oxo)acetate (3.5 g, 26 mmol) in tetrahydrofuran (25 mL). The reaction mixture was stirred at 0° C. for 10 minutes and filtered; the filtrate was concentrated in vacuo to afford the product as a yellow solid Yield: 3.0 g, 19 mmol, 78%. 1H NMR (400 MHz, CDCl3) δ 7.14 (br s, 1H), 4.34 (q, J=7.2 Hz, 2H), 2.78-2.86 (m, 1H), 1.38 (t, J=7.2 Hz, 3H), 0.83-0.90 (m, 2H), 0.59-0.65 (m, 2H).

reactant | cyclopropylamine | 24.3 mmol, 1.39 g | C1(CC1)N | C3H7N
reactant | triethylamine | 35 mmol, 3.5 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloro(oxo)acetate | 26 mmol, 3.5 g | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | Ethyl(cyclopropylamino)(oxo)acetate | 19 mmol, Yield: 3.0 g, 78% | C(C)OC(C(=O)NC1CC1)=O | C7H11NO3
